US05464788
2-Methoxy-4-(4-piperidyloxy)benzoic acid (0.6 g, 2.09 mmol) was stirred in THF (10 ml) and treated with triethylamine (0.29 ml, 0.21 g, 2.08 mmol), followed by acetyl chloride (0.18 ml, 0.2 g, 2.5 mmol) and an additional 0.35 ml of triethylamine. The mixture was stirred at ambient temperature for 18 hours, then concentrated in vacuo. The residue was partitioned between aqueous sodium bicarbonate and ethyl acetate. The ethyl acetate layer was extracted with sodium bicarbonate solution. The combined sodium bicarbonate layers were acidified with 1N HCl and extracted with ethyl acetate. The organic layers were combined, washed with brine, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo to give 2-methoxy-4-(1-acetyl-4-piperidyloxy)benzoic acid.

reactant | 2-Methoxy-4-(4-piperidyloxy)benzoic acid | 2.09 mmol, 0.6 g | COC1=C(C(=O)O)C=CC(=C1)OC1CCNCC1 | C13H17NO4
reactant | triethylamine | 2.08 mmol, 0.29 ml, 0.21 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.5 mmol, 0.18 ml, 0.2 g | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.35 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-methoxy-4-(1-acetyl-4-piperidyloxy)benzoic acid | COC1=C(C(=O)O)C=CC(=C1)OC1CCN(CC1)C(C)=O | C15H19NO5
